US06353006B1
3-Pentylamine was converted to N-(2-hydroxyethyl)-N-(3-pentyl)amine according to Method B5a. The amine was reacted with SOCl2 according to Method B7a to give N-(2-chloroethyl)-N-(3-pentyl)ammonium chloride. The chloroethylamine was reacted with 2-methyl-4-nitrophenyl isothiocyanate according to Method C1a to give to give 2-(2-methyl-4-nitrophenylimino)-3-(3-pentyl)-1,3-thiazolidine.

reactant | 3-Pentylamine | CCC(CC)N | C5H13N
reactant | N-(2-hydroxyethyl)-N-(3-pentyl)amine | OCCNC(CC)CC | C7H17NO
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
product | N-(2-chloroethyl)-N-(3-pentyl)ammonium chloride | [Cl-].ClCC[NH2+]C(CC)CC | InChI=1S/C7H16ClN.ClH/c1-3-7(4-2)9-6-5-8;/h7,9H,3-6H2,1-2H3;1H
